US07482350B2
Step 2. Preparation of 2-(2,6-diethylphenyl)-4-methoxy-6-methyl-5-(1-propylbutyl)pyrimidine
A solution of 2-(2,6-diethylphenyl)-4-methoxy-6-methyl-5-(1-propylbutenyl)pyrimidine (100 mg) in MeOH is hydrogenated over Pd-C at 50 psi for 18 h. The catalyst is removed by filtration and the filtrate is concentrated to afford the title compound. 1H NMR (300 MHz, CDCl3): δ 7.24-7.29 (m, 1H), 7.13 (d, J=8 Hz, 2H), 3.91 (s, 3H), 2.51 (s, 3H), 2.41 (q, J=7.5 Hz, 4H), 2.38-2.45 (m, 8H), 1.58-1.82 (m, 3H), 1.14-1.44 (m, 2H), 1.08 (q, J=7.5, 6.6 Hz, 6H) 0.89 (t, J=7.5 Hz, 6H); LC-MS found 355 (MH+).

reactant | 2-(2,6-diethylphenyl)-4-methoxy-6-methyl-5-(1-propylbutenyl)pyrimidine | 100 mg | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)OC)C(=CCC)CCC)C | C23H32N2O
solvent | MeOH | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | 2-(2,6-diethylphenyl)-4-methoxy-6-methyl-5-(1-propylbutyl)pyrimidine | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)OC)C(CCC)CCC)C | C23H34N2O
